US08703795B2
b) [(7-Ethynyl-4-hydroxy-thieno[2,3-c]pyridine-5-carbonyl)-amino]-acetic acid
A mixture of 4-hydroxy-7-trimethylsilanylethynyl-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester (70 mg, 0.2 mmol) and a 0.5 M solution of sodium methoxide in methanol (10 ml, 5 mmol) was refluxed with stirring for 1 h before glycine (375 mg, 5 mmol) was added. Refluxing and stirring was continued for 18 h before the mixture was concentrated in vacuo. The residue was dissolved in water (20 ml), and the pH of the solution was adjusted to 2-3 by addition of 6 N aqueous HCl. The resulting suspension was extracted with ethyl acetate (1×20 ml). The organic phase was dried over MgSO4 and concentrated in vacuo to give the title compound as a tan solid (56 mg); MS-(+)-ion: M+1=277.1.

reactant | 4-hydroxy-7-trimethylsilanylethynyl-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester | 0.2 mmol, 70 mg | C(CCC)OC(=O)C=1C(=C2C(=C(N1)C#C[Si](C)(C)C)SC=C2)O | C17H21NO3SSi
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 5 mmol, 10 ml | CO | CH4O
reactant | glycine | 5 mmol, 375 mg | NCC(=O)O | C2H5NO2
product | [(7-Ethynyl-4-hydroxy-thieno[2,3-c]pyridine-5-carbonyl)-amino]-acetic acid | 56 mg | C(#C)C=1N=C(C(=C2C1SC=C2)O)C(=O)NCC(=O)O | C12H8N2O4S
